US08580805B2
4-(3,5-di-tert-butyl-4-hydroxy-phenyl)-2-dimethylamino-pyrimidine-5-carboxylic Acid Methylamide
A 50-mL round bottom flask was charged with 3-(3,5-di-tert-butyl-4-hydroxy-phenyl)-3-oxo-propanoic acid methyl ester (2.69 g, 8.8 .mmol) and toluene (18 mL). The mixture was warmed to give a solution, then N,N-dimethylformamide dimethyl acetal (1.46 mL, 11 mmol) was added while the solution was still hot. The mixture was stirred for 2.5 h then evaporated. The residue was taken up in 2-propanol (28 mL) and 1,1-dimethylguanidine sulfate (1.80 g, 6.6 mmol) was added. The mixture was stirred at room temperature and a 1 M solution of potassium tert. butoxide in tert. butanol (21 mL) was added and the mixture was immersed into a bath maintained at 80° C. and stirred for 4 hours then at 50° C. overnight. The mixture was allowed to cool to room temperature, and was equilibrated with ethyl acetate (80 mL) and water (60 mL). The organic layer was washed with water (2×25 mL), once with brine (20 mL) then dried with sodium sulfate and evaporated to a brown solid. This material was boiled in dichloromethane (200 mL) without dissolving all solids. The mixture was allowed to cool and was filtered. The brown filtrate was charged to a column of silica gel G (70-230 mesh) in dichloromethane and using 1:4, 1:2, 1:1 ethyl acetate-hexane and ethyl acetate as mobile phases. The product was eluted with ethyl acetate and crystallized partly in the receptacles. The appropriate fractions were evaporated and the residue dissolved in a boiling ethanol-acetone mixture. The solution was concentrated, the resulting suspension diluted with cyclohexane and refrigerated. The solids were washed with 1:2 ethyl acetate-hexane to leave the title compound as a white powder, 1.52 g, 45% yield. TLC (ethyl acetate) Rf 0.73, TLC (1:1 ethyl acetate-hexane) Rf 0.20; 1H-NMR (300 MHz, DMSO-d6) δ 1.38 (9H, s), 2.64 (3H, d, J=4.5 Hz), 3.15 (6H, s), 7.60 (2H, s), 8.15 (1H, br s), 8.22 (1H, s).

reactant | 3-(3,5-di-tert-butyl-4-hydroxy-phenyl)-3-oxo-propanoic acid methyl ester | 2.69 g | COC(CC(=O)C1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C)=O | C18H26O4
reactant | N,N-dimethylformamide dimethyl acetal | 11 mmol, 1.46 mL | COC(N(C)C)OC | C5H13NO2
reactant | 1,1-dimethylguanidine sulfate | 6.6 mmol, 1.80 g | S(=O)(=O)(O)O.CN(C(=N)N)C
reactant | potassium tert. butoxide | CC(C)([O-])C.[K+]
solvent | tert. butanol | 21 mL | C(C)(C)(C)O | C4H10O
solvent | water | 60 mL | O | H2O
solvent | ethyl acetate | 80 mL | C(C)(=O)OCC | C4H8O2
solvent | toluene | 18 mL | C1(=CC=CC=C1)C | C7H8
product | 4-(3,5-di-tert-butyl-4-hydroxy-phenyl)-2-dimethylamino-pyrimidine-5-carboxylic Acid Methylamide | 45% yield | CNC(=O)C=1C(=NC(=NC1)N(C)C)C1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C | C22H32N4O2
